US05721245
25 ml of a 1.6M solution of n-butyllithium in n-hexane were added to a solution of 4.04 g of diisopropylamine in 20 ml of tetrahydrofuran at 0° C. under nitrogen. After 10 minutes, the stirred solution was cooled to -78° C. and a solution of 9.28 g of t-butyl acetate in 20 ml of tetrahydrofuran was added. After 10 minutes, 3.46 g of 1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one in 20 ml of tetrahydrofuran was added followed by 8 ml of boron trifluoride diethyl etherate. The mixture was stirred at -78° C. and then 20 ml of pyrrolidine were added. The mixture was partitioned between ethyl acetate and water and the organic extracts were washed with water and sodium chloride solution, dried and evaporated. The residue was purified by chromatography on silica gel with ethyl acetate/petroleum ether (1:3). There were obtained 4.1 g of t-butyl (E)-(1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-ylidene)acetate of melting point 105°-107° C.

reactant | n-butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 4.04 g | C(C)(C)NC(C)C | C6H15N
reactant | t-butyl acetate | 9.28 g | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | 1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one | 3.46 g | C1CN2C(CCC3=CC=CC1=C23)=O | C11H11NO
reactant | boron trifluoride diethyl etherate | 8 ml | B(F)(F)F.CCOCC
reactant | pyrrolidine | 20 ml | N1CCCC1 | C4H9N
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | t-butyl (E)-(1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-ylidene)acetate | 4.1 g | C1CN2\C(\CCC3=CC=CC1=C23)=C\C(=O)OC(C)(C)C | C17H21NO2
